US08278482B2
Benzyl 2-methyl-4-oxo-4-(piperidin-1-yl)butan-2-ylcarbamate
To a stirred solution of 3-(benzyloxycarbonylamino)-3-methylbutanoic acid (11.8 g, 46.8 mmol) in DMF (100 mL) was added CDI (7.60 g, 1 equiv, 46.8 mmol) in one portion and stirred at room temperature for 2 h. Piperidine (9.27 mL, 2 equiv, 93.6 mmol) was added and the reaction was left to stir for 17 h. The solvent was removed on a rotovap and the residue was dissolved into a mixture of ethyl acetate (300 mL) and water (100 mL). The organic layer was separated and washed with saturated NaHCO3 solution (2×150 mL), 1 N HCl solution (150 mL) and brine (150 mL). It was dried over anhydrous MgSO4, filtered and concentrated to an oil. The crude material was purified on an ISCO system using a 220 g column and ethyl acetate and hexanes as eluent. The desired fractions were collected and concentrated to a colorless oil (8.84 g, 60%). 1H NMR (CDCl3, 400 MHz): δ 1.45 (s, 6H), 1.48-1.57 (m, 4H), 1.60-1.66 (m, 2H), 3.40-3.44 (m, 2H), 3.52-3.58 (m, 2H), 5.04 (s, 2H), 6.15 (s, 1H), 7.27-7.37 (m, 5H). LRMS (ESI+) for C18H26N2O3 (318.2); Found: 319 (MH+).

reactant | 3-(benzyloxycarbonylamino)-3-methylbutanoic acid | 46.8 mmol, 11.8 g | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)O)(C)C | C13H17NO4
reactant | CDI | 46.8 mmol, 7.60 g, 1 equiv | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Piperidine | 93.6 mmol, 9.27 mL, 2 equiv | N1CCCCC1 | C5H11N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Benzyl 2-methyl-4-oxo-4-(piperidin-1-yl)butan-2-ylcarbamate | CC(C)(CC(N1CCCCC1)=O)NC(OCC1=CC=CC=C1)=O | C18H26N2O3
